US06420381B1
Preparation of N-[1-butyl-4-[3-[3-(hydroxy)propoxy]phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(1-pyrazolylmethyl)-phenyl]urea:
A suspension of N-[1-butyl-4-[3-[3-(benzyloxy)propoxy]phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(1-pyrazolylmethyl)phenyl]urea (1.86 g, 2.6 mmol), 10% palladium carbon (180 mg), conc. hydrochloric acid (0.21 ml, 2.6 mmol) in methanol is stirred under hydrogen atmosphere at room temperature for 8 hours. The mixture is filtered on celite, and the solvent is concentrated under reduced pressure. The resultant is dissolved in chloroform, and thereto are added water and aqueous ammonia. The mixture is stirred and the chloroform layer is dried over anhydrous sodium sulfate, and the solvent is concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give the title compound (1.53 g, 2.46 mmol) as colorless amorphous.

reactant | N-[1-butyl-4-[3-[3-(benzyloxy)propoxy]phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(1-pyrazolylmethyl)phenyl]urea | 2.6 mmol, 1.86 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCOCC1=CC=CC=C1)NC(=O)NC1=C(C=CC(=C1)CC1=NNC=C1)C(C)(C)C)=O | C43H48N6O4
reactant | hydrochloric acid | 2.6 mmol, 0.21 ml | Cl | ClH
solvent | methanol | CO | CH4O
catalyst | palladium carbon | 180 mg | [C].[Pd]
product | N-[1-butyl-4-[3-[3-(hydroxy)propoxy]phenyl]-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2-tert-butyl-5-(1-pyrazolylmethyl)-phenyl]urea | 2.46 mmol, 1.53 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OCCCO)NC(=O)NC1=C(C=CC(=C1)CC1=NNC=C1)C(C)(C)C)=O | C36H42N6O4
